US07153875B2
To a mixture of 2-(1-adamantyl)-4-bromophenol (10.00 g, 32.57 mmol) in DMF (90 mL) cooled to 0° C. was added NaH (1.08 g, 80% in mineral oil, 35.83 mmol) under an atmosphere of argon. The mixture was allowed to warm to room temperature and subsequently stirred for 30 minutes. The resulting mixture was cooled to 0° C. and chloromethyl methyl ether (2.72 mL, 35.83 mmol) was added dropwise. After 14 hours at room temperature and the reaction mixture was poured into ice water and extracted with EtOAc (2×150 mL). The combined organic layers were washed water (100 mL), brine (100 mL), dried (MgSO4) and filtered. The solvent was removed under reduced pressure and the resulting solid was purified on silica gel (hexane:ethyl acetate 99:1 to 97:3) to give 8.6 g (76%) of 3-(1-adamantyl)-4-methoxymethoxy-bromobenzene. 1H NMR (300 MHz; CDCl3): δ 1.77 (s, 6H), 2.08 (s, 9H), 3.50 (s, 3H), 5.19 (s, 2H), 6.98 (d, J=8.7 Hz, 1H), 7.24 (dd, J1=9.0 Hz, J2=2.4 Hz, 1H), 7.32 (d, J=2.4 Hz, 1H).

reactant | 2-(1-adamantyl)-4-bromophenol | 32.57 mmol, 10.00 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)Br)O | C16H19BrO
reactant | NaH | 35.83 mmol, 1.08 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 35.83 mmol, 2.72 mL | COCCl | C2H5ClO
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 3-(1-adamantyl)-4-methoxymethoxy-bromobenzene | 8.6 g, 76% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCOC)Br | C18H23BrO2
